US04588722
A mixture of 5 parts of N"-cyano-N-(2,2-dimethoxyethyl)-N'-[2-[4-[[1-[(4-fluorophenyl)methyl]-1H-benzimidazol-2-yl]amino]-1-piperidinyl]ethyl]guanidine and 60 parts of concentrated hydrochloric acid was stirred and refluxed for one hour. Water was added and the whole was alkalized with ammonia. The product was extracted with 4-methyl-2-pentanone. The extract was dried, filtered and evaporated. The residue was purified by column chromatography over silica gel using a mixture of trichloromethane and methanol (95:5 by volume) saturated with ammonia, as eluent. The pure fractions were collected and the eluent was evaporated. The residue was crystallized from a mixture of acetonitrile and 2,2'-oxybispropane, yielding 1 part of N-[1-[2-(2-amino-1H-imidazol-1yl]ethyl]-4-piperidinyl]-1-[(4-fluorophenyl)methyl]-1H-benzimidazol-2-amine monohydrate; mp. 171.4° C. (compound 60).

reactant | N"-cyano-N-(2,2-dimethoxyethyl)-N'-[2-[4-[[1-[(4-fluorophenyl)methyl]-1H-benzimidazol-2-yl]amino]-1-piperidinyl]ethyl]guanidine | C(#N)N=C(NCC(OC)OC)NCCN1CCC(CC1)NC1=NC2=C(N1CC1=CC=C(C=C1)F)C=CC=C2 | C27H35FN8O2
reactant | hydrochloric acid | Cl | ClH
reactant | ammonia | N | H3N
solvent | Water | O | H2O
product | N-[1-[2-(2-amino-1H-imidazol-1yl]ethyl]-4-piperidinyl]-1-[(4-fluorophenyl)methyl]-1H-benzimidazol-2-amine monohydrate | O.NC=1N(C=CN1)CCN1CCC(CC1)NC1=NC2=C(N1CC1=CC=C(C=C1)F)C=CC=C2 | InChI=1S/C24H28FN7.H2O/c25-19-7-5-18(6-8-19)17-32-22-4-2-1-3-21(22)29-24(32)28-20-9-12-30(13-10-20)15-16-31-14-11-27-23(31)26;/h1-8,11,14,20H,9-10,12-13,15-17H2,(H2,26,27)(H,28,29);1H2
